US06455507B1
f) (3R,4S,5S,6R)-2-Bromo-5,6-dichloro-1-(tetrahydro-4,5-dihydroxy-6-(hydroxymethyl)-2H-pyran-3-yl)-1H-benzimidazole
(3R,4S,5S,6R)-2-Bromo-5,6-dichloro-1-(4,5-diacetoxy-6-(acetoxymethyl)tetrahydro-2H-pyran-3-yl)-1H-benzimidazole (part e of this example, 0.810 g, 1.53 mmol) was dissolved in 1:1 methanol-ethanol (100 ML) and treated with a solution of sodium carbonate (0.163 g, 1.53 mmol) in water (10 ML). After 0.5 h at room temperature, TLC analysis indicated a single new spot (silica gel, 10% methanol-chloroform). The pH was then adjusted to 5 with glacial acetic acid and the solvents evaporated in vacuo. The residual solid was slurried in water until the solids were free-flowing, then suction-filtered and dried overnight in vacuo affording the title compound as a white solid (0.510 g, 81%); m.p. 207-209° C.; [α]20D−162° (c 0.26, EtOH); 1H-NMR (DMSO-d6, 200 MHz) δ: 8.30, 8.28 (s, each 1H), 5.26 (d, J=5.5 Hz, 1H), 5.13 (d, J=4.2 Hz, 1H), 5.05 (t, J=4.7 Hz, 1H), 5.04 (m, 1H), 4.78 (m, 1H), 4.33-4.00 (m, 3H), 3.84-3.68 (m, 3H).

reactant | (3R,4S,5S,6R)-2-Bromo-5,6-dichloro-1-(4,5-diacetoxy-6-(acetoxymethyl)tetrahydro-2H-pyran-3-yl)-1H-benzimidazole | BrC1=NC2=C(N1[C@@H]1CO[C@@H]([C@H]([C@H]1OC(C)=O)OC(C)=O)COC(C)=O)C=C(C(=C2)Cl)Cl | C19H19BrCl2N2O7
reactant | methanol ethanol | CO.C(C)O
reactant | sodium carbonate | 1.53 mmol, 0.163 g | C([O-])([O-])=O.[Na+].[Na+]
reactant | methanol chloroform | CO.C(Cl)(Cl)Cl
solvent | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (3R,4S,5S,6R)-2-Bromo-5,6-dichloro-1-(tetrahydro-4,5-dihydroxy-6-(hydroxymethyl)-2H-pyran-3-yl)-1H-benzimidazole | 0.510 g, 81% | BrC1=NC2=C(N1[C@@H]1CO[C@@H]([C@H]([C@H]1O)O)CO)C=C(C(=C2)Cl)Cl | C13H13BrCl2N2O4
